US05244910
(S)-1-(2-Furyl)-1-pentanol
10.4 mmol (10.4 mL) of diborane (1 M solution in THF) was added dropwise in a period of 10 m at room temperature to a solution of 2-valeryl furan (2.62 g, 17.2 mmol) and 1.68 mmol (4.2 mL) of (3aR)-1,3,3-triphenyl pyrrolidino [1,2-c] [1,3,2] oxazaborole (see E. J. Corey et al. J. Am. Chem. Soc. 1987, 109, 7925-26, 0.4M solution in THF) in 25 mL THF. The reaction mixture was stirred for 20 m and was cooled to 10° C. 6 mL methanol was cautiously added and followed by adding 62 mg HCl (by weight) in ether. Stirred for 0.5 h, white solid was precipitated out. The cloudy mixture was poured into 100 mL ether and 100 mL water. The organic layer was separated, washed with saturated sodium bicarbonate, water, brine, dried and filtered. The filtrate was evaporated to an yellowish oil which was chromatographed eluting with 10 % ethyl acetate in hexane to obtain 70% of the product. [α]25D =-13°, 60% ee by Mosher' ester analysis.

reactant | diborane | 10.4 mmol, 1 M | B#B | B2
reactant | 2-valeryl furan | 17.2 mmol, 2.62 g | C(CCCC)(=O)C=1OC=CC1 | C9H12O2
reactant | [1,3,2] oxazaborole | 0.4M | O1B=NC=C1 | C2H2BNO
reactant | HCl | 62 mg | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 6 mL | CO | CH4O
product | (S)-1-(2-Furyl)-1-pentanol | 70% | O1C(=CC=C1)[C@H](CCCC)O | C9H14O2
